US08349859B2
Et3N (1 mmol) was added to a solution of 2,4-dichloropyrimidine (1 mmol) and 5-amino-2-methylindole (1 mmol) in 5 ml EtOH. The reaction mixture was refluxed for 5 hours. After removal of the solvent in vacuo and addition of H2O, the mixture was extracted with EtOAc. The organic layers were combined, washed with saturated NaCl solution, dried over anhydrous Na2SO4, and concentrated in vacuo. The resulting residue was purified by column chromatography to give N-(2-chloropyrimidin-4-yl)-2-methyl-1H-indol-5-amine in a yield of 80%.

reactant | Et3N | 1 mmol | CCN(CC)CC | C6H15N
reactant | 2,4-dichloropyrimidine | 1 mmol | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | 5-amino-2-methylindole | 1 mmol | NC=1C=C2C=C(NC2=CC1)C | C9H10N2
solvent | EtOH | 5 ml | CCO | C2H6O
product | N-(2-chloropyrimidin-4-yl)-2-methyl-1H-indol-5-amine | yield of 80% | ClC1=NC=CC(=N1)NC=1C=C2C=C(NC2=CC1)C | C13H11ClN4
